Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea, Chest Pressure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with no known past medical history who is only on herbal 
supplements daily who is presenting with shortness of breath, 
progressively worsening over the past month. He states he also 
has intermittent chest pain, possibly associated with exertion 
and cough that is mildly productive of sputum. 

In the ED initial vitals were:  96.4 90 149/79 18 99% RA

EKG:  Sinus rhythm, PVCs

Labs/studies notable for: D-Dimer 1200

Chest CTA revealed a 5cm ascending aortic aneurysm. There was no 
evidence of PE. 

On the floor pt interviewed with the assistance of ___ 
interpreter over the phone. Pt endorses worsening DOE over the 
last month, which is worsened by the cold weather. Improves with 
rest. Also states that he has felt some vague chest pressure 
with exertion that is associated with the above mentioned 
dyspnea. Has had chronic cough with minimal sputum production. 
The cough has
been ongoing for many years, and has not gotten worse recently. 
No fevers or chills. Denies orthopnea, PND, palpitations, leg 
pain/edema, pain w/ eating, or abdominal discomfort.   

He reports that he has been taking more herbal supplements from 
___ over the past couple of days in hopes that this would help 
his worsening shortness of breath. 

 
Past Medical History:
The patient was told by a doctor in ___ that he has "poor 
blood
supply to heart". He does not know what tests were done for this
workup. 
 
Social History:
___
Family History:
No heart disease in mother or father, younger brother died last 
year of diabetes. No history of lung disease. 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: 97.5PO 165/80L Lying 82 17 96 Ra 
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor
or cyanosis of the oral mucosa. Hard of hearing L>R ear.   
NECK: Supple. No carotid bruits. JVP 8cmh20 at 45 degrees.   
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. 
LUNGS: Respirations labored. Bibasilar crackles. 
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE PHYSICAL EXAM: 
========================
VITALS: 97.6PO 135/82 L Lying 83 18 99 Ra  
GENERAL: Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. Conjunctiva were pink, no pallor 
or cyanosis of the oral mucosa. Hard of hearing L>R ear.   
NECK: Supple. No carotid bruits. JVP 7cmh20 at 45 degrees.   
CARDIAC: RRR, normal S1, S2. ___ systolic murmur, loudest at 
apex. 
LUNGS: Respirations nonlabored. Clear to auscultation 
bilaterally. 
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION LABS
==============
___ 01:27PM BLOOD WBC-6.7 RBC-5.48 Hgb-15.2 Hct-45.8 MCV-84 
MCH-27.7 MCHC-33.2 RDW-12.2 RDWSD-37.4 Plt ___
___:27PM BLOOD Glucose-86 UreaN-22* Creat-0.9 Na-139 
K-4.0 Cl-104 HCO3-23 AnGap-12
___ 01:27PM BLOOD proBNP-803*
___ 01:27PM BLOOD cTropnT-<0.01
___ 05:40PM BLOOD cTropnT-<0.01
___ 11:40AM BLOOD cTropnT-<0.01
___ 03:39PM BLOOD D-Dimer-1234*
___ 07:50AM BLOOD %HbA1c-5.8 eAG-120
___ 07:50AM BLOOD Triglyc-89 HDL-58 CHOL/HD-3.8 
LDLcalc-145*
___ 07:50AM BLOOD TSH-1.9
___ 08:17AM BLOOD ___ pO2-168* pCO2-36 pH-7.40 
calTCO2-23 Base XS--1
___ 02:36PM BLOOD Lactate-2.0
___ 07:50AM BLOOD ALT-14 AST-18 AlkPhos-74 TotBili-1.4

DISCHARGE LABS
==============
___ 06:05AM BLOOD WBC-6.0 RBC-5.54 Hgb-15.7 Hct-46.3 MCV-84 
MCH-28.3 MCHC-33.9 RDW-12.4 RDWSD-37.3 Plt ___
___ 06:05AM BLOOD Glucose-107* UreaN-22* Creat-1.0 Na-142 
K-3.8 Cl-104 HCO3-26 AnGap-12
___ 07:50AM BLOOD ALT-14 AST-18 AlkPhos-74 TotBili-1.4

IMAGING
=======
___ CTA:
IMPRESSION: 
1. No evidence of acute pulmonary embolism.  No evidence of 
aortic dissection. 
2. Aneurysmal dilatation of the ascending aorta measuring up to 
5.0 cm and of 
the descending aorta to 3.9 cm. 
3. Mild diffuse airway wall thickening suggestive of chronic 
airways disease. 
4. Patulous esophagus can suggest esophageal dysmotility, and 
clinical 
correlation is recommended.  Esophagram can be obtained for 
further 
assessment. 

TTE:
IMPRESSION: Moderately dilated aortic root, ascending aorta, and 
aortic arch. At least moderate aortic regurgitation. 
Functionally bicuspid aortic valve with mild aortic stenosis by 
continuity equation (leaflets appear more pliable than 
suggested) in the setting of moderately depressed left 
ventricular systolic function. Severely dilated left ventricle. 
Moderate pulmonary hypertension. 

Nuclear stress:
IMPRESSION: 
1. Probably normal myocardial perfusion.  Anterior wall defect 
most consistent 
with attenuation.   
2. Increased left ventricular cavity size. 

 
Brief Hospital Course:
The patient is a ___ with no known past medical history who is 
presenting with shortness of breath, progressively worsening 
over the past month, incidentally found to have a 5cm ascending 
aortic aneurysm, as well as a bicuspid aortic valve and moderate 
aortic regurgitation requiring valve replacement.

#SOB/Cough: Pt presented with progressively worsening DOE over 
last month, worsened with the cold weather. On initial exam, pt 
appeared to have labored breathing with increased respiratory 
rate. Pt's smoking history and mild diffuse airway wall 
thickening on CT are suggestive of undiagnosed COPD vs asthma 
given exacerbation with cold weather. Pt was treated with Advair 
and standing duonebs with moderate relief of symptoms. 

#Chronic Systolic Heart Failure
Pt endorsed 1 mo history of chest pressure associated with 
shortness of breath and exertion. CTA w/out e/o PE. Pt denies 
any symptoms throughout this hospitalization. EKG was without ST 
changes and troponins neg x3, making ischemia unlikely. Nuclear 
stress was without any areas of ichemia. TTE also obtained, 
which was notable for EF of 35-30% and "moderately dilated 
aortic root, ascending aorta, and aortic arch. At least moderate 
aortic regurgitation. Functionally bicuspid aortic valve with 
mild aortic stenosis by continuity equation (leaflets appear 
more pliable than suggested) in the setting of moderately 
depressed left ventricular systolic function. Severely dilated 
left ventricle. Moderate pulmonary hypertension." Patient was 
euvolemic on exam and discharged on losartan. Further evaluation 
and treatment of CHF should be continued as an outpatient. 

#Aortic aneurysm: Pt incidentally found to have aneurysmal 
dilatation of the ascending aorta measuring up to 5.0 cm and of 
the descending aorta to 3.9 cm. Evaluated by cardiac surgery, 
who did not see indication for urgent repair given size. TTE did 
reveal aortic regurgitation. Pt SBPs 130-140s, so patient was 
initiated on Losartan for better BP control. Per cardiac 
surgery, the patient should have surgical repair of aneurysm w/ 
Dr. ___ at ___ as an outpatient, or with a physician in ___ 
if he prefers.

# Bigeminy: EKG showing persistent bigeminy. Pulse measured at 
bedside 45bpm. Pt denied symptoms including palpitations or 
lightheadedness. As bigeminy is rarely a cause of severe 
symptoms and has no known independent prognostic importance, 
unlikely to be contributing to patients overall presentation. 

#Health maintenance: No evidence of undiagnosed diabetes (HbA1c 
5.8). Lipid panel notable for Tot cholesterol of 221, HDL 58, 
LDL 145. Estimated ___ year ASCVD risk was calculated to be 
___ (>7.5%), thus patient should be started on atorvastatin 
as an outpatient. 

Transitional issues
====================
- Outpatient PFTs to evaluate for underlying pulmonary disease. 
Consider uptitration of Advair if indicated. 
- Patient should follow-up with a cardiologist as an outpatient 
within one month of discharge for further treatment of CHF. 
- Patient should follow-up with cardiac surgery either here at 
___ or in ___ for repair of aortic aneurysm. 
- Consider starting atorvastatin as an outpatient given high 
ASCVD risk
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
Please rinse your mouth after each use.  
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/dose 1 
puff IH Twice per day Disp #*1 Disk Refills:*0 
2.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
- Chronic obstructive pulmonary disease
- Thoracic aortic aneurism
- Bicuspid aortic valve

SECONDARY DIAGNOSIS:
- Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED TO THE HOSPITAL?
- You became short of breath and you were experiencing some 
chest heaviness

WHAT HAPPENED WHILE I WAS HERE?
- You had some imaging of your heart which showed an "aortic 
aneurysm", which is when one of the large blood vessels that 
carries blood from your heart to the rest of your body is bigger 
than it should be. You were also found to have an irregularity 
of one of your heart valves, called a bicuspid aortic valve.
- You were seen by the cardiac surgery team who decided you need 
surgery for this irregularity within the next ___ months.
- Your shortness of breath was treated with breathing 
treatments, and your symptoms improved greatly as a result.

WHAT SHOULD I DO WHEN I LEAVE?
- You should follow up with your primary care doctor. You should 
also see a heart doctor (___) and a heart surgeon 
(cardiac surgeon) after you leave the hospital since you should 
get surgery on your heart either here in the ___ or back in 
___. 
- You should take all of your medications as prescribed to you.
- We are working to get your surgery covered by your insurance. 
You may need to apply for more insurance if you want to get the 
surgery covered. Please call  ___ for the ___ 
Financial Assistance department, and they will be able to help 
you with this. 

It was a pleasure to care for you during your hospitalization.

- Your ___ team
 
Followup Instructions:
___